US05843942
Potassium-t-butoxide (52.3 g) was suspended in diethylether (500 ml) and cooled to 0° C. A solution of N-formyl sarcosine ether ester (67.66 g) and methyl formate (27.9 g) in diethylether (200 ml) was added dropwise over 30 minutes and the mixture was stirred at 0° C. for 1 hour. The solid product was filtered (76.6 g) and used immediately for the next stage. The ethyl-2-(N-formyl-N-methyl)-3-oxopropionate prepared as described above was dissolved in water and concentrated HCl (138 ml) was added. The mixture was heated on a steam bath for 30 minutes, cooled and the pH was adjusted to 5 by addition of concentrated NaOH. Cyanamide (19.3 g) was added and the mixture was heated at 100° C. for 1 hour. The mixture was allowed to cool and was basified with concentrated aqueous ammonium hydroxide, the solid was filtered, washed with water and dried under reduced pressure and was crystallised from EtOAc (300 ml) to give ethyl 2-amino-1-methyl-1H-imidazole-5-carboxylate yield 14.6 g.

reactant | Potassium-t-butoxide | 52.3 g | CC(C)([O-])C.[K+]
reactant | methyl formate | 27.9 g | C(=O)OC | C2H4O2
reactant | HCl | 138 ml | Cl | ClH
reactant | NaOH | [OH-].[Na+]
reactant | Cyanamide | 19.3 g | N#CN | CH2N2
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | diethylether | 500 ml | C(C)OCC | C4H10O
reactant | diethylether | 200 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
product | ethyl 2-amino-1-methyl-1H-imidazole-5-carboxylate | yield 14.6 g | NC=1N(C(=CN1)C(=O)OCC)C | C7H11N3O2
